Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.724585587130001
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.58219135222
[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-6.37862614324
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9](=[C:10])[H:11].[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([C:10])([H:11])[H:12],-1.72674053082
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],4.39603379353
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],1.46136348926
[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-6.62291671227
[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[O:7][H:8],-2.1258405056900003
[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3]=[C:7]([H:8])[H:9],5.60831061243
[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:5][H:6].[C:2]([H:3])#[C:4][O:7][C:8]([H:9])([H:10])[H:11],1.2820216573
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[C:5][C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.476390535759999
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.6824040617
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:1][C:2],7.59749721208
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.920856526
[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.0830405797000004
[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-8.1678328353
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])=[C:9][H:10].[H:1][C:2],4.48712287158
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12],3.82707825847
[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.76908262441
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.36657520986
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:5][H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.93507307034
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-6.08498023258
[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],4.28187612719
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:5],0.956508883516
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],5.23005744
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]#[C:8][H:9]>>[H:1][C:2]#[C:3][C:5][O:6][C:7]#[C:8][H:9].[H:4],2.00370544463
[C:8]([H:9])([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],0.33081307286
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:2]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:4][H:3],7.477080890539999
